US03983133
A mixture of 4.15 parts of 2-amino-5-(o-chlorophenyl)-2-imidazoline-1-ethanol hydrochloride in 22.5 parts of chloroform is treated with 3.6 parts of thionyl chloride and the whole is stirred at reflux temperature for 30 minutes. The solvent is evaporated and the residue is taken up in 15 parts of chloroform. The latter is evaporated again, yielding 2-amino-1-(2-chloroethyl)-5 (o-chlorophenyl)-2-imidazoline hydrochloride as a residue.

reactant | 2-amino-5-(o-chlorophenyl)-2-imidazoline-1-ethanol hydrochloride | Cl.NC=1N(C(CN1)C1=C(C=CC=C1)Cl)CCO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-1-(2-chloroethyl)-5 (o-chlorophenyl)-2-imidazoline hydrochloride | Cl.NC=1N(C(CN1)C1=C(C=CC=C1)Cl)CCCl | InChI=1S/C11H13Cl2N3.ClH/c12-5-6-16-10(7-15-11(16)14)8-3-1-2-4-9(8)13;/h1-4,10H,5-7H2,(H2,14,15);1H
